US07544688B2
4-Cyclopentylamino-5-(4-phenyl-but-1-ynyl)-pyrimidine-2-carbonitrile
5-Bromo-4-cyclopentylamino-pyrimidine-2-carbonitrile (0.69 mmol), 4-phenyl-1-butyne (1.66 mmol), dichlorobis(triphenylphosphine)palladium(II) (0.035 mmol), copper (I) iodide (0.07 mmol) and triethylamine (2.1 mmol) in DMF (5 ml) is stirred at 75° C. for 2.5 h. The reaction mixture is treated with saturated ammonium chloride and extracted with AcOEt. The organic layer is washed with brine, dried over magnesium sulfate and evaporated down. The crude product is applied to a silica gel column chromatography, which is eluted with following solvents: n-hexane:AcOEt=12:1 (v/v) and n-hexane:AcOEt=10:1 (v/v). The solvent of the latter effluent is removed by evaporation and dried in vacuo to afford the title compound. yield 89.9%, Rf=0.65 (n-hexane:AcOEt=2:1).

reactant | 5-Bromo-4-cyclopentylamino-pyrimidine-2-carbonitrile | 0.69 mmol | BrC=1C(=NC(=NC1)C#N)NC1CCCC1 | C10H11BrN4
reactant | 4-phenyl-1-butyne | 1.66 mmol | C1(=CC=CC=C1)CCC#C | C10H10
reactant | triethylamine | 2.1 mmol | C(C)N(CC)CC | C6H15N
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | DMF | 5 ml | CN(C)C=O | C3H7NO
catalyst | dichlorobis(triphenylphosphine)palladium(II) | 0.035 mmol | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
catalyst | copper (I) iodide | 0.07 mmol | [Cu]I
product | 4-Cyclopentylamino-5-(4-phenyl-but-1-ynyl)-pyrimidine-2-carbonitrile | yield 89.9% | C1(CCCC1)NC1=NC(=NC=C1C#CCCC1=CC=CC=C1)C#N | C20H20N4
